US06689290B2
a) 1,4-difluoro,2-hexyloxybenzene
2,5-Difluorophenol (23 g, 0.172 mol) was dissolved in dry, distilled ethanol (300 ml) under a stream of nitrogen. 1-Bromohexane (31.75 g, 0.193 mol, 1.2 eq) and potassium carbonate (133 g, 0.964 mol, 5.5 eq) were added and the reaction mixture was stirred vigorously under reflux for 4 days. Dichloromethane (300 ml) was added to the straw coloured mixture, which was then filtered through a bed of celite to remove the potassium carbonate. The filtrate was washed with water (3×100 ml), and dried with magnesium sulphate. Removal of the solvent in vacuo yields 34.07 g of pale brown oil. This was distilled under reduced pressure to yield a colourless oil (29.22 g, 77%), bp 70° C. @ 0.7 mmHg; (Found: C, 67.35; H, 7.55. C12H16OF2 requires C, 67.3; H, 7.53; O, 7.47; F, 17.76%); vmax(film)/cm−1 3090 (C—H unsat.), 2932 (C—H aliph.), 1832 (C═C); δH(300 MHz; CDCl3) 0.90 (3H, t, 3J(H,H)=7 Hz, —CH3), 1.33 (4H, m, 2×—CH2—), 1.35 (2H, septet, 3J(H,H)=7 Hz, —CH2CH2CH2O—Ar), 1.81 (2H, quintet, 3J(H,H)=7 Hz, —CH2CH2CH2O—Ar), 3.98 (2H, t, 3J(H,H)=7 Hz, —CH2CH2O—Ar), 6.56 (H, dddd, 3J(H,F)=10.8, 4J(H,F)=5.3, 4J(H,H)=2.4, 5J(H,H)=0.7 Hz, C6H), 6.67 (H, dddd, 3J(H,F)=10.8, 3J(H,H)=9.0, 4J(H,F)=5.3, 4J(H—H)=2.4 Hz, C4H), 6.99 (H, dddd, 3J(H,F)=10.8, 3J(H,H)=9.0, 4J(H,F)=5.3, 5J(H,H)=0.7 Hz, C3H); m/z 214 (M+, 19%), 130 (M+-alkoxy chain, 100%), 43 (56%).

reactant | 2,5-Difluorophenol | 0.172 mol, 23 g | FC1=C(C=C(C=C1)F)O | C6H4F2O
reactant | 1-Bromohexane | 0.193 mol, 31.75 g, 1.2 eq | BrCCCCCC | C6H13Br
reactant | potassium carbonate | 0.964 mol, 133 g, 5.5 eq | C([O-])([O-])=O.[K+].[K+]
solvent | Dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 1,4-difluoro,2-hexyloxybenzene | 34.07 g | FC1=C(C=C(C=C1)F)OCCCCCC | C12H16F2O
